Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Heparin Agents
 
Attending: ___.
 
Chief Complaint:
Skull defect from previous craniectomy
 
Major Surgical or Invasive Procedure:
Cranioplasty

 
History of Present Illness:
___. F who presented to the ___ on ___ 
with MS changes secondary to two cerebral abscesses. The left 
parietal abscess was emergently drained through a small 
craniectomy. The right frontal abscess was drained 
stereotactically. The microbiology results from the surgical 
aspirate were consistent with s. viridans abscess. The patient 
underwent 6 weeks of Ceftriaxone therapy and has been off 
antibiotics for a month now. She received ID clearance for 
cranioplasty and is here for surgical evaluation. 

 
Past Medical History:
1. COPD  
2. BOOP- diagnosed 3 weeks ago by CT guided biopsy  
3. Pneumonia (___) 3 days admission- ___  
4. Glaucoma  
5. Anxiety  
6. Bipolar D/O -- well controlled x ___ years  
7. Cataract  
8. fluid retention  
9. Neuropathy  
10. hyperlipidemia  

 
Social History:
___
Family History:
Father- lung ca, CAD 
 
Physical Exam:
O: AFVSS 
WD/WN, comfortable, NAD. 
HEENT: NCAT, Helmet, ___ defect 
EOM intacts 
Neck: Supple. 
Lungs: CTA bilaterally. 
Cardiac: RRR. S1/S2. 
Abd: Soft, NT, BS+ 
Extrem: Warm and well-perfused. 
Neuro: 
Mental status: Awake and alert, cooperative with exam, normal 
affect. 
Orientation: Oriented to person, place, and date. 
Recall: ___ objects at 5 minutes. 
Language: Speech fluent with good comprehension and repetition. 
Naming intact. No dysarthria or paraphasic errors. 
 
Cranial Nerves: 
I: Not tested 
II: Pupils equally round and reactive to light, to 
mm bilaterally. Visual fields are full to confrontation. 
III, IV, VI: Extraocular movements intact bilaterally without 
nystagmus. 
V, VII: Facial strength and sensation intact and symmetric. 
VIII: Hearing intact to voice. 
IX, X: Palatal elevation symmetrical. 
XI: Sternocleidomastoid and trapezius normal bilaterally. 
XII: Tongue midline without fasciculations. 
 
Motor: Normal bulk and tone bilaterally. No abnormal movements, 
tremors. Strength full power ___ throughout. No pronator drift 
 
Sensation: Intact to light touch, propioception, pinprick and 
vibration bilaterally. 
 
Reflexes: B T Br Pa Ac 
Right wnl 
Left wnl 
 
 
Toes downgoing bilaterally 

 
Pertinent Results:
___ 07:45PM BLOOD WBC-8.2 RBC-4.39 Hgb-11.0* Hct-36.0 
MCV-82# MCH-25.1*# MCHC-30.6* RDW-15.2 Plt ___
___ 03:09AM BLOOD ___ PTT-29.4 ___
___ 07:45PM BLOOD Glucose-93 UreaN-12 Creat-0.7 Na-142 
K-4.8 Cl-103 HCO3-34* AnGap-10
___ 07:45PM BLOOD Calcium-9.0 Phos-3.8 Mg-2.1
 
Brief Hospital Course:
Ms ___ was admitted to the neurosurgery service in advance 
of her surgery to have her anticoagulation reversed. On ___ she 
underwent a cranioplasty without complication, post operatively 
she went to the neurosurgical floor. The patient was ambulating 
with some assistance from the nurses and her family members. She 
was eating and voiding without difficulty. ___ evaluated her and 
did not feel that she required further therapy. ID recommended 
that she take a week's worth of levaquin and keflex 
post-operatively. She was discharged home with her family on 
___ and will have 24-hour supervision there.
 
Medications on Admission:
omeprazole 20 
Levetiacetam 1500 
Brovnamca 15mcg 
Simvastatin 20mg 
Betoptics 0.25
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  
3. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
4. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
5. Levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
6. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Betaxolol 0.25 % Drops, Suspension Sig: One (1) Drop 
Ophthalmic BID (2 times a day).  
8. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed for pain: No driving while on this medication.
Disp:*40 Tablet(s)* Refills:*0*
9. Keflex ___ mg Capsule Sig: One (1) Capsule PO four times a 
day for 1 weeks.
Disp:*28 Capsule(s)* Refills:*0*
10. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO once a day 
for 1 weeks.
Disp:*7 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cranial defect s/p Cranioplasty

 
Discharge Condition:
Neurologically stable

 
Discharge Instructions:
General Instructions

•Have a friend/family member check your incision daily for signs 
of infection.
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Your wound closure uses dissolvable sutures, you must keep that 
area dry for 10 days. 
•You may shower before this time using a shower cap to cover 
your head.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
•Clearance to drive and return to work will be addressed at your 
post-operative office visit.
•Make sure to continue to use your incentive spirometer while at 
home, unless you have been instructed not to. 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
•Fever greater than or equal to 101° F.

 
Followup Instructions:
___